US04334915
Dimethyl 4-(2',4'-dichlorophenoxy)-phthalate (Compound 1)
2.4 g (0.012 mole) of sodium salt of 2,4-dichlorophenol and 2.4 g (0.010 mole) of dimethyl 4-nitrophthalate are dissolved in dry dimethylformamide and stirred at 130°-150° C. for 5 hours. After cooling, the mixture is poured into cold water, extracted with benzene, successively washed with dilute aqueous caustic soda, dilute hydrochloric acid and water, dried over sodium sulfate and then concentrated to obtain 2.5 g of an oily product. It was purified by column chromatography and there was obtained 1.6 g of the intended compound as a viscous oily product. Yield 45%.

reactant | sodium | 0.012 mole, 2.4 g | [Na] | Na
reactant | 2,4-dichlorophenol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | dimethyl 4-nitrophthalate | 0.010 mole, 2.4 g | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H9NO6
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Dimethyl 4-(2',4'-dichlorophenoxy)-phthalate | 2.5 g | ClC1=C(OC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC(=C1)Cl | C16H12Cl2O5
